US08431569B2
Step 1. N-[(1E)-3-Hydroxy-3-methylbutylidene]-2-methylpropane-2-sulfinamide
To a stirred solution of 4,4-dimethoxy-2-methylbutan-2-ol (2.49 g, 16.8 mmol) in DCM (35 mL) were added 2-methyl-2-propanesulfinamide (1.7 g, 14 mmol), magnesium sulfate (8.44 g, 70.1 mmol), and pTsOH.H2O (0.13 g, 0.70 mmol). The reaction mixture was left to stir overnight, filtered through a fritted glass, concentrated, and purified by flash chromatography to give the title compound.

reactant | 4,4-dimethoxy-2-methylbutan-2-ol | 16.8 mmol, 2.49 g | COC(CC(C)(O)C)OC | C7H16O3
reactant | 2-methyl-2-propanesulfinamide | 14 mmol, 1.7 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | magnesium sulfate | 70.1 mmol, 8.44 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | pTsOH.H2O | 0.70 mmol, 0.13 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | N-[(1E)-3-Hydroxy-3-methylbutylidene]-2-methylpropane-2-sulfinamide | OC(C\C=N\S(=O)C(C)(C)C)(C)C | C9H19NO2S
